US07365085B2
3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethylamino]-propoxy}-phenylamine
To N-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-carbamic acid tert-butyl ester (492 mg, 0.77 mmol) dissolved in dioxane (5 mL) was added a 4.0 M solution of HCl in dioxane (5 mL). The solution was maintained for 20 hours after which the solvent was removed under reduced pressure. The residue was dissolved in dichloromethane and washed twice with saturated NaHCO3, dried over Na2SO4, and concentrated to give 0.4 g (0.74 mmol, 96%) of the title compound as a yellow oil. MS (ESI) 539.2

reactant | N-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-carbamic acid tert-butyl ester | 0.77 mmol, 492 mg | C(C)(C)(C)OC(NC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C36H38ClF3N2O3
reactant | HCl | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethylamino]-propoxy}-phenylamine | 0.74 mmol, 0.4 g, 96% | ClC1=C(CN(CCCOC=2C=C(C=CC2)N)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C31H30ClF3N2O
